US08389508B2
To a solution of 5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-3-{2-ethyl-3-[(E)-2-(methyloxy)ethenyl]phenyl}-1,2,4-thiadiazole (D51) (313 mg) in tetrahydrofuran (THF) (20 mL) stirred under nitrogen at room temperature was added 14 drops 2M hydrochloric acid. The reaction mixture was stirred at 70° C. for 4 h. After cooling the reaction, the solution was condensed under reduced pressure to give [3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]acetaldehyde (D52) (300 mg), which was used directly in the next step without further purification. MS (ES): C21H21 ClN2O2S requires 400. found 401.1 (M+H+).

reactant | 5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-3-{2-ethyl-3-[(E)-2-(methyloxy)ethenyl]phenyl}-1,2,4-thiadiazole | 313 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C1=C(C(=CC=C1)\C=C\OC)CC | C22H23ClN2O2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | hydrochloric acid | 2M, 14 drops | Cl | ClH
product | [3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]acetaldehyde | 300 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)CC=O)CC | C21H21ClN2O2S
